US07297795B2
A suspension of iron (3.89 g, 69.7 mmol), ammonium chloride (5.0 g, 93.5 mmol), in 100 mL of ethanol and 28 mL of water was heated to reflux. 2-Iodo-1-(2-methoxyethoxy)-4-nitrobenzene (7.5 g, 23.2 mmol) was added and the reaction was heated at reflux for 3 hours. The mixture was cooled to room temperature and filtered through Celite, washed with ethanol. The filtrate was concentrated in vacuo until a precipitate appeared. The precipitate was removed by filtration through Magnesol and the filtrate was concentrated in vacuo to provide 4.0 g of [3-iodo-4-(2-methoxyethoxy)phenyl]amine as an oil; 1H NMR (300 MHz, DMSO-d6) δ 3.33 (s, 3H), 3.62 (t, 2H), 3.95 (t, 2H), 5.01 (d, 2H), 6.55 (d, 1H), 6.73 (d, 1H), 7.03 (s, 1H); MS (ES) m/z294.0 (M+H)

reactant | ammonium chloride | 93.5 mmol, 5.0 g | [Cl-].[NH4+]
reactant | water | 28 mL | O | H2O
reactant | 2-Iodo-1-(2-methoxyethoxy)-4-nitrobenzene | 23.2 mmol, 7.5 g | IC1=C(C=CC(=C1)[N+](=O)[O-])OCCOC | C9H10INO4
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | iron | 69.7 mmol, 3.89 g | [Fe] | Fe
product | [3-iodo-4-(2-methoxyethoxy)phenyl]amine | 4.0 g | IC=1C=C(C=CC1OCCOC)N | C9H12INO2
